US08202888B2
1-(2-Chloro-benzenesulfonyl)-piperidine-3-carboxylic acid ethyl ester
To a solution of 3.87 g piperidine-3-carboxylic acid ethyl ester hydrochloride (commercially available) (20 mmol) in 40 mL DCM was added 10 mL of DIPEA (60 mmol). At room temperature 2.72 mL 2-chloro-benzenesulfonyl chloride (20 mmol) was added drop wise and stirred for 14 h. The mixture was diluted with 30 mL of DCM, washed with water (3×50 mL) and the organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to obtain the crude product which was further purified by column chromatography on silica eluting with 10% ethyl acetate in hexane to yield 5.73 g (86.3%) of the title compound. (MH+) 332.16.

reactant | piperidine-3-carboxylic acid ethyl ester hydrochloride | 3.87 g | Cl.C(C)OC(=O)C1CNCCC1
reactant | DIPEA | 60 mmol, 10 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-chloro-benzenesulfonyl chloride | 20 mmol, 2.72 mL | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Chloro-benzenesulfonyl)-piperidine-3-carboxylic acid ethyl ester | 5.73 g, 86.3% | C(C)OC(=O)C1CN(CCC1)S(=O)(=O)C1=C(C=CC=C1)Cl | C14H18ClNO4S
